US09403818B2
Preparation of methyl 8-(1H-indazol-5-yl)-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(1H-indazol-5-yl)-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate (50 mg, 0.17 mmol), and 1H-Indazole-5-boronic acid pinacol ester (48 mg, 0.19 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (30 mg, 45%).

reactant | methyl 8-chloro-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate | 0.17 mmol, 50 mg | ClC=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)C | C16H16ClNO3
reactant | 1H-Indazole-5-boronic acid pinacol ester | 0.19 mmol, 48 mg | N1N=CC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C13H17BN2O2
product | methyl 8-(1H-indazol-5-yl)-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate | 30 mg, 45% | N1N=CC2=CC(=CC=C12)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)C | C23H21N3O3
